US04822787
A solution of methanesulfonyl chloride (0.62 ml) in dichloromethane (2 ml) was dropwise added to a solution of (2S,4R)-2-(carboxymethyloxymethyl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.42 g) and triethylamine (1.4 ml) in dichloromethane (14 ml) at 0°-5° C. and the mixture was stirred at the same temperature for 1 hour. The mixture was poured into water (50 ml), adjusted to pH 2.5 with 6N hydrochloric acid and extracted with dichloromethane (50 ml×2). The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (1:99 V/V) to give (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.30 g).

reactant | methanesulfonyl chloride | 0.62 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2S,4R)-2-(carboxymethyloxymethyl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.42 g | C(=O)(O)COC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O8
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.30 g | C(=O)(O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O10S
